*****< 出力抵抗算出用テストベンチ >*****
.lib OR

*****< Parameters >*****
.param half='psvoltage/2'
.param valr1=10k
.param valr2=10k
.op

*****< Power_Supply >*****
VDD	vdd gnd	'half'
VSS	gnd vss	'half'

******< Input >******
VIN	inp gnd dc 0

*****< Circuit Topology >*****
Xor inm inp out vdd vss opamp
R1 inm gnd valr1
R2 out inm valr2

******< Control >******
*.DCの記述により.TFと重複しているためwarning発生
*.DC VIN -0.01 0.01 0.01
.TF V(out) VIN
.TEMP 25

.endl